US04628024
33 g of α-chloro-α-(4-methoxybenzoyl)-2-chloro-5-dodecyloxycarbonylacetanilide and 16 g of 1-(4-carboxyphenyl)-5-mercaptotetrazole were dispersed in 200 ml of chloroform to which was added dropwise 10 ml of triethylamine at room temperature over a period of about 30 minutes. After stirring for 3 hours the chloroform solution was washed with water and concentrated under reduced pressure. The residue was recrystallized from methanol to obtain 41.2 g of α-(4-methoxybenzoyl)-α-[1-(4-carboxyphenyl)-5-tetrazolylthio]-2-chloro-5-dodecyloxycarbonylacetanilide. Yield: 93%. Melting Point: 172° to 174° C.

reactant | α-chloro-α-(4-methoxybenzoyl)-2-chloro-5-dodecyloxycarbonylacetanilide | 33 g | ClC(C(=O)N(C1=CC=CC=C1)C(=O)OC(CCCC)CCCCCCC)(Cl)C(C1=CC=C(C=C1)OC)=O | C29H37Cl2NO5
reactant | 1-(4-carboxyphenyl)-5-mercaptotetrazole | 16 g | C(=O)(O)C1=CC=C(C=C1)N1N=NN=C1S | C8H6N4O2S
reactant | triethylamine | 10 ml | C(C)N(CC)CC | C6H15N
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | α-(4-methoxybenzoyl)-α-[1-(4-carboxyphenyl)-5-tetrazolylthio]-2-chloro-5-dodecyloxycarbonylacetanilide | 41.2 g, Yield: 93% | COC1=CC=C(C(=O)C(C(=O)N(C2=CC=CC=C2)C(=O)OC(CCCC)CCCCCCC)(Cl)SC2=NN=NN2C2=CC=C(C=C2)C(=O)O)C=C1 | C37H42ClN5O7S
